US08865726B2
To a stirred solution of (S)-benzyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate (0.734 g, 2.94 mmol) in DMF (15 mL) was added sodium hydride (0.177 g, 4.42 mmol) at 0° C. The mixture was then stirred at ambient temperature for 30 minutes. The solvent was concentrated and the residue distributed between water and EtOAc. The combined organic extracts were dried (phase separator silicone treated filter paper), concentrated to provide (S)-4-(cyclopropylmethyl)oxazolidin-2-one (0.318 g, 76% yield) as a clear oil.

reactant | (S)-benzyl 1-cyclopropyl-3-hydroxypropan-2-ylcarbamate | 2.94 mmol, 0.734 g | C1(CC1)C[C@@H](CO)NC(OCC1=CC=CC=C1)=O | C14H19NO3
reactant | sodium hydride | 4.42 mmol, 0.177 g | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (S)-4-(cyclopropylmethyl)oxazolidin-2-one | 0.318 g, 76% yield | C1(CC1)C[C@@H]1NC(OC1)=O | C7H11NO2
